US05298652
To 2.9 g (6.45 mmol) of 4-(octadecyloxy)-alpha-oxobenzeneacetic acid ethyl ester in 200 ml of hot methanol was added 7.1 ml (7.1 mmol) of 1.0 N NaOH. The reaction mixture was stirred at reflux for 5 minutes, 50 ml of water was added and the solvents were removed at reduced pressure. Water (300 ml) was added and the product was extracted with methylene chloride-THF (4:1). The dried extract was concentrated at reduced pressure and the residual solid was recrystallized from acetone-hexane to give 2.39 g (88% yield, mp 78°-80°) of 4-(octadecyloxy)-alpha-oxobenzeneacetic acid.

reactant | 4-(octadecyloxy)-alpha-oxobenzeneacetic acid ethyl ester | 6.45 mmol, 2.9 g | C(C)OC(C(C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCC)=O)=O | C28H46O4
reactant | NaOH | 7.1 mmol, 1.0 N, 7.1 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 4-(octadecyloxy)-alpha-oxobenzeneacetic acid | 2.39 g, 88% yield | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C(C(=O)O)=O | C26H42O4
